US06878705B2
N-(4-Chlorobenzyl)-7-methyl-4-oxo-4,7-dihydrofuro[2,3-b]-pyridine-5-carboxamide.
A mixture of ethyl 7-methyl-4-oxo-4,7-dihydrofuro[2,3-b]pyridine-5-carboxylate (Preparation 9, 1.00 g) and 4-chlorobenzylamine (5.5 mL) was heated to 190° C. for 1 h. The reaction mixture was allowed to cool for several minutes and toluene (50 mL) was added. The resulting off-white solid was filtered and recrystallized from ethyl acetate to yield 0.979 g (68%) of the title compound as a pale yellow solid. Physical characteristics. M.p. 197-205° C.; 1H NMR (400 MHz, DMSO-d6) δ 10.62, 8.59, 7.92, 7.41-7.33, 7.06, 4.55, 3.94; 13C NMR (100 MHz, CDCl3) δ 174.0, 164.8, 153.4, 141.4, 140.5, 137.3, 132.8, 128.9, 128.7, 116.7, 114.2, 107.9, 42.6, 37.7; MS (ESI+) m/z 317 (M+H)+.

reactant | ethyl 7-methyl-4-oxo-4,7-dihydrofuro[2,3-b]pyridine-5-carboxylate | 1.00 g | CN1C2=C(C(C(=C1)C(=O)OCC)=O)C=CO2 | C11H11NO4
reactant | 4-chlorobenzylamine | 5.5 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-Chlorobenzyl)-7-methyl-4-oxo-4,7-dihydrofuro[2,3-b]-pyridine-5-carboxamide | 0.979 g, 68% | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)OC=C3)=O)C=C1 | C16H13ClN2O3
